US05506242
A solution of N-benzyloxy-2(R)-[(4-methoxybenzenesulfonyl)(benzyl)amino]-3-hydroxy-4-methylpentanamide (125 mg) in ethanol (100 ml) is hydrogenated in the presence of 5% palladium on charcoal (100 mg) at room temperature and atmospheric pressure to yield N-hydroxy-2(R)-[(4-methoxybenzenesulfonyl)(benzyl)amino]-3-hydroxy-4-methyl-pentanamide, m.p. 81°-82° C.

reactant | N-benzyloxy-2(R)-[(4-methoxybenzenesulfonyl)(benzyl)amino]-3-hydroxy-4-methylpentanamide | 125 mg | C(C1=CC=CC=C1)ONC([C@@H](C(C(C)C)O)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C27H32N2O6S
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | N-hydroxy-2(R)-[(4-methoxybenzenesulfonyl)(benzyl)amino]-3-hydroxy-4-methyl-pentanamide | ONC([C@@H](C(C(C)C)O)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C20H26N2O6S
